US05037829
A mixture of 19 parts of intermediate 10, namely [3-(dimethoxymethyl)-4-nitrophenyl]phenylmethanone, 40 parts of an aqueous hydrochloric acid solution 5N and 120 parts of trichloromethane was stirred overnight at room temperature and for 4 hours at reflux temperature. After cooling, the organic layer was separated, basified with NH4OH (aq.), washed with water, dried, filtered and evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and ethyl acetate. The product was filtered off, washed successively with a mixture of 2,2'-oxybispropane and ethyl acetate and with 2,2'-oxybispropane and dried in vacuo at 50° C., yielding 7.61 parts (49.0%) of 5-benzoyl-2-nitrobenzaldehyde; mp. 96.7° C. (interm. 11).

reactant | [3-(dimethoxymethyl)-4-nitrophenyl]phenylmethanone | COC(C=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC=CC=C1)OC | C16H15NO5
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-benzoyl-2-nitrobenzaldehyde | 49.0% | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H9NO4
